US05149767
16.64 g (0.041 mol) of tribenzylsulfonium hydrogen sulfate are dissolved in 750 ml of hot methanol. 16.04 g (0.062 mol) of solid sodium hexafluoroantimonate are added to the cloudy solution and the mixture is stirred at RT for 1 h. After addition of 1 spatula-full of active charcoal, the mixture is filtered and 750 ml of water are added to the clear filtrate. The crystals which have precipitated are filtered off, dried, washed with 100 ml of ether and dried again. 16.41 g (74% of theory) of tribenzylsulfonium hexafluoroantimonate are obtained as colourless crystals of melting point 170° C. (decomposition).

reactant | tribenzylsulfonium hydrogen sulfate | 0.041 mol, 16.64 g | S(=O)(=O)(O)[O-].C(C1=CC=CC=C1)[S+](CC1=CC=CC=C1)CC1=CC=CC=C1
reactant | sodium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.[Na+]
reactant | charcoal | C | CH4
solvent | methanol | 750 ml | CO | CH4O
product | tribenzylsulfonium hexafluoroantimonate | 16.41 g, 74% | F[Sb-](F)(F)(F)(F)F.C(C1=CC=CC=C1)[S+](CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C21H21S.6FH.Sb/c1-4-10-19(11-5-1)16-22(17-20-12-6-2-7-13-20)18-21-14-8-3-9-15-21;;;;;;;/h1-15H,16-18H2;6*1H;/q+1;;;;;;;+5/p-6
